US05196569
Preparation of (3,6,10-Trioxa-1,2-dichloro-1,1,2,4,4,5,7,7,8,8-decafluoro-5-trifluoromethylnonyl) 2,4-Dinitrophenyl Ether
This compound was made by the procedure of Example 2 from Compound A (46.5 g, 0.010 mole), NaH (4 g as 60% oil suspension, 0.10 mole) and 2,4-dinitrofluorobenzene (27.9 g, 0.15 mole) in THF (150 ml). The final product was purified by distillation to give a liquid product, yield 45.0 g (71.3%). Bp. 150°-160° C./0.5 mm. H1NMR (CDCl3): δ8.80 (d, J=2.5 Hz, 1H), 8.70 (dd, J=2.5, 10 Hz, 1H), 7.24 (d, J=10 Hz, 1H), 4.68 (t, J=12 Hz, 2H); F19NMR (CDCl3): -71.3 (d, J=10.1 Hz, 2F), -77.4 (m, 1F), -80.2 (q, J=7.6 Hz, 3F), -82.5 to -86.0 (m, 4F), -122.9 (t, J=11.6 Hz, 2F), -145.9 (q, J=19.4 Hz, 1F).

reactant | NaH | 0.10 mole, 4 g | [H-].[Na+]
reactant | 2,4-dinitrofluorobenzene | 0.15 mole, 27.9 g | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])F | C6H3FN2O4
reactant | THF | 150 ml | C1CCOC1 | C4H8O
product | 2,4-Dinitrophenyl Ether | [N+](=O)([O-])C1=C(C=CC(=C1)[N+](=O)[O-])OC1=C(C=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C12H6N4O9
